US07126009B2
3-Ethyl-2-isopropenyl-5-methyl-1H-indol
A 100 ml reaction flask equipped with a stirring bar and thermocouple are charged with Pd(OAc)2 (56 mg, 0.25 mmol), DtBPF (142 mg, 0.3 mmol), 2-chloro-4-methylaniline (0.71 g, 5 mmol), 2-methyl-1-hexen-3-yne (0.94 g, 10 mmol), K2CO3 (1.73 g, 12.5 mmol) and DMF (50 mL). The flask was purged with argon. The reaction was heated to 110° C. and stirred overnight. The reaction was complete after 20 h at 110° C. The mixture was filtered through a layer of diatomaceous earth and washed with EtOAc (10 mL). The filtrate was diluted with water (50 mL), extracted with EtOAc (100 mL×3). The combined organic phase was washed with water (50 mL×4) and brine, dried over MgSO4, filtered and concentrated to give a dark brown residue. The product was purified via chromatography on silica gel (hexane/EtOAc 50/1). The desired product was obtained as an off-white solid (0.6 g, 60%).

reactant | 2-chloro-4-methylaniline | 5 mmol, 0.71 g | ClC1=C(N)C=CC(=C1)C | C7H8ClN
reactant | 2-methyl-1-hexen-3-yne | 10 mmol, 0.94 g | CC(=C)C#CCC | C7H10
reactant | K2CO3 | 12.5 mmol, 1.73 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.25 mmol, 56 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DtBPF | 0.3 mmol, 142 mg | CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.[Fe+2]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-Ethyl-2-isopropenyl-5-methyl-1H-indol | C(C)C1=C(NC2=CC=C(C=C12)C)C(=C)C | C14H17N
